US09289430B2
1-(3-(trifluoromethyl)phenyl)-1H-imidazol-4-amine
Into a 100-mL round bottom flask, was placed a solution of 4-nitro-1-(3-(trifluoromethyl)phenyl)-1H-imidazole (1.5 g, 5.54 mmol, 1.00 equiv, 95%) in methanol (30 mL). The mixture was treated with Pd/C (1.5 g) and stirred under a hydrogen atmosphere for 4 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 1.2 g (88%) of 1-(3-(trifluoromethyl)phenyl)-1H-imidazol-4-amine as a brown oil.

reactant | 4-nitro-1-(3-(trifluoromethyl)phenyl)-1H-imidazole | 5.54 mmol, 1.5 g, 1.00 equiv | [N+](=O)([O-])C=1N=CN(C1)C1=CC(=CC=C1)C(F)(F)F | C10H6F3N3O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 1-(3-(trifluoromethyl)phenyl)-1H-imidazol-4-amine | FC(C=1C=C(C=CC1)N1C=NC(=C1)N)(F)F | C10H8F3N3
